US05665748
To a solution of 5-[5-(4-hydroxyphenyl)pentyl]-2,4-oxazolidinedione (0.9 g) in N,N-dimethylformamide (DMF) (40 ml) was added sodium hydride (60% in oil, 0.28 g). The mixture was stirred for 15 minutes at room temperature, to which was then added 4-chloromethyl-5-methyl-2-phenyloxazole (0.85 g), and the mixture was stirred for 2 hours at 70° C. The reaction mixture was poured into water, acidified with 2N HCl, and subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and then the solvent was distilled off. The oily residue was subjected to a silica gel column chromatography. From the fractions eluted with ethyl acetate--chloroform (1:5, v/v) was obtained 5-[5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]pentyl]-2,4-oxazolidinedione (0.86 g, 58%). Recrystallization from dichloromethane--isopropyl ether gave colorless prisms, m.p.120°-121° C.

reactant | 5-[5-(4-hydroxyphenyl)pentyl]-2,4-oxazolidinedione | 0.9 g | OC1=CC=C(C=C1)CCCCCC1C(NC(O1)=O)=O | C14H17NO4
reactant | sodium hydride | 0.28 g | [H-].[Na+]
reactant | 4-chloromethyl-5-methyl-2-phenyloxazole | 0.85 g | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | HCl | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-[5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]pentyl]-2,4-oxazolidinedione | 0.86 g, 58% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCCCCC1C(NC(O1)=O)=O | C25H26N2O5
